Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dizziness, left sided weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ y/o healthy male who presents with left sided
weakness x1 day.

Patient is a healthy male with no significant PMH. 

He reports that he woke up on the morning of admission with left
sided weakness including his left face, left upper extremity, 
and
left lower extremity. That side of his body felt heavy and more
difficult to use. He had some accompanying dizziness and mental
fog. He reports he has had this sensation a few times in the
past, but it has always self resolved. 

He also reports that for the past few weeks, he has had
intermittent episodes of left sided chest wall pain worse with
palpation. These episodes self-resolve. He did have some chest
wall pain on the morning of admission. 

He is currently taking summer classes. He reports that he is not
at any more stress/anxiety than normal, although he says he is 
an
anxious person. He drinks alcohol occasionally (last 2 days 
ago),
but does not use recreational drugs. He denies any recent travel
or new medications. No sick contacts. Also denies fevers, 
chills,
weight loss, abdominal pain, nausea, vomiting, constipation,
diarrhea, headache, vision changes. 

In the ED, initial VS were T 97.7, HR 160, BP 134/116, RR 14, O2
99% RA. Exam notable for thin anxious male, tachycardic, no
edema, and normal neuro exam. Labs notable for WBC 11.2 (80.1%
neutrophils), hgb 16.5, plt 315, TSH 1.9, Cr 1.0, Bicarb 21 (AG
19), lactate 2.6, trop < 0.01, Na 141, K 3.8, D-Dimer 105, INR
1.2, UA normal, Utox negative, Stox negative. 

Imaging notable for:
CXR ___:
No acute cardiopulmonary abnormality.

EKG:
HR 118, NSR, normal axis, high voltages in anterolateral leads,
no ischemic changes. 

Bedside ultrasound without pericardial effusion, right heart
strain, or regurgitation.

He received 3L of NS and Ativan, but his tachycardia persisted. 

On arrival to the floor, patient reports that his left sided
weakness has now resolved. He feels like he is back to normal. 

 
Past Medical History:
None
 
Social History:
___
Family History:
Grandfather with stroke. Great grandfather with CAD. Parents and
siblings are healthy.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.3, BP 113 / 74, HR 77, RR 18, O2 99 Ra 
GENERAL: NAD, well appearing, lying in bed, speaking comfortably
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: CN2-12 intact, ___ strength throughout, sensation intact
to light touch, normal FNF, normal rapid alternating hands
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE:
Same as admission
 
Pertinent Results:
ADMISSION:

___ 02:58PM BLOOD WBC-11.2* RBC-5.62 Hgb-16.5 Hct-46.8 
MCV-83 MCH-29.4 MCHC-35.3 RDW-13.1 RDWSD-38.7 Plt ___
___ 02:58PM BLOOD Neuts-80.1* Lymphs-13.3* Monos-5.5 
Eos-0.3* Baso-0.4 Im ___ AbsNeut-8.97* AbsLymp-1.49 
AbsMono-0.62 AbsEos-0.03* AbsBaso-0.04
___ 02:58PM BLOOD Glucose-118* UreaN-11 Creat-1.0 Na-141 
K-3.8 Cl-101 HCO3-21* AnGap-19*
___ 02:58PM BLOOD D-Dimer-105
___ 02:58PM BLOOD TSH-1.9
___ 02:58PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:04PM BLOOD Lactate-2.6*

DISCHARGE:

___ 06:45AM BLOOD WBC-8.6 RBC-4.78 Hgb-14.0 Hct-40.9 MCV-86 
MCH-29.3 MCHC-34.2 RDW-13.2 RDWSD-40.8 Plt ___
___ 06:45AM BLOOD Glucose-88 UreaN-8 Creat-0.9 Na-145 K-4.3 
Cl-109* HCO3-21* AnGap-15
___ 06:45AM BLOOD ALT-14 AST-14 AlkPhos-59 TotBili-1.2
___ 06:45AM BLOOD Albumin-4.1 Calcium-8.8 Phos-4.3 Mg-2.0
___ 06:45AM BLOOD Cortsol-11.2
___ 06:54AM BLOOD Lactate-1.0

URINE:

___ 05:45PM URINE Color-Straw Appear-Clear Sp ___
___ 05:45PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 05:45PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

IMAGING:
FINDINGS:  
  
Heart size is normal.  The mediastinal and hilar contours are 
normal. The 
pulmonary vasculature is normal. Lungs are clear.  No pleural 
effusion or 
pneumothorax is seen. There are no acute osseous abnormalities.  
Bilateral 
___ rods are seen within the thoracic spine. 
  
IMPRESSION:  
  
No acute cardiopulmonary abnormality. 
 
Brief Hospital Course:
SUMMARY:
========
___ is a ___ y/o healthy male who presents with chest pain 
and left sided weakness x1 day.

TRANSITIONAL ISSUES:
====================
[ ] MRI as outpatient prior to ___ appointment.
[ ] Consider TTE, further cardiac workup if remains tachycardic
[ ] Address mood and sleep during office visit

# Left-sided weakness: Patient presents with non-specific left 
sided weakness/discomfort x1 day, which he has also had in the 
past. Unclear cause of this neurologic symptom -- can consider 
TIA (although no risk factors and symptoms lasted 12 hours) vs 
atypical migraine vs seizure with ___ paralysis. 
Interestingly, these symptoms co-occurred with leukocytosis and 
elevated lactate (see below), which also raises possibility of 
infectious or inflammatory process (see ddx below). Symptoms 
resolved upon arrival to floor. He is scheduled for outpatient 
MRI, PCP appointment and neurology follow up.

# Leukocytosis
# AGMA, Elevated Lactate: Presentation of sinus tachycardia, 
neutrophilic leukocytosis, and elevated lactate with AGMA seem 
to suggest infectious etiology. However, no clear localizing 
symptoms for infection -- UA unremarkable, CXR without 
pneumonia. Other possible etiologies include DVT (although no 
risk factors
and D-dimer negative) vs viral syndrome (no fevers and would 
expect a lymphocytic predominance, but + prodrome, + myalgias) 
vs tick-borne illness (although no history) vs rheumatologic 
(although onset of symptoms too sudden, wouldn't expect 
leukocytosis) vs adrenal insufficiency (although no hypotension, 
no abdominal pain). His elevated lactate is likely type B from 
catecholamine excess. Fortunately, on arrival to floor patient 
reports that symptoms have resolved, so we can be limited with 
inpatient workup unless symptoms recur. LFTs, TSH, cortisol, 
stox and utox all negative and reassuring.

# Tachycardia: Presented with sinus tachycardia to 160s, which 
resolved to HR ___ before leaving ED. This tachycardia is likely 
anxiety and volume related, as it seemed to improve after fluids 
and Ativan in the ED. The tachycardia may also be driven by 
primary infectious or inflammatory process (see above).   He did 
not experience any acute recent GI losses or dramatic decrease 
in po intake.

# ? Anxiety:  Patient endorses being in rigorous academic 
program, getting inadequate sleep and somewhat limited po intake 
on a regular basis.     He was strongly encouraged to have close 
PCP ___, either at ___ or at ___, and he elected to ___ at 
___.  
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: weakness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

You came to ___ because you were having left sided body 
weakness and dizziness. Please see more details listed below 
about what happened while you were in the hospital and your 
instructions for what to do after leaving the hospital.

It was a pleasure participating in your care. 

Sincerely,  
Your ___ Care Team  

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL:
- You received fluids and Ativan.
- You had a chest xray which was normal.
- You improved considerably and were ready to leave the hospital 
 

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL:  
- Please follow up with your primary care doctor and neurologist 
appointments.
- Please schedule brain MRI
- Seek medical attention if you have slurred speech, headaches, 
nausea, vomiting, fevers, shortness of breath, chest pain or 
other symptoms of concern.  
 
Followup Instructions:
___